US07342031B2
To the mixture of 80 ml of toluene and 40 ml of water, 10.0 g of 4-chlorobenzylisothiourea hydrochloride, 7.85 g of perchloromethylmercaptan and 192 mg of benzyltriethylammonium chloride were added, followed the solution of 6.75 g of sodium hydroxide dissolved to 40 ml of water was added dropwise over a period for 3 hours at about 0° C. Then, t-butylmethylether was added to the reaction mixture, and extracted. The organic layer was dried by anhydrous sodium salfate, and concentrated. The residue obtaind was subjected to silica gel column chromatography to obtain 5.38 g of 3-(4-chlorobenzyl)thio-5-chloro-1,2,4-thiadiazole.

reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-chlorobenzylisothiourea hydrochloride | 10.0 g | Cl.ClC1=CC=C(CNC(S)=N)C=C1
reactant | perchloromethylmercaptan | 7.85 g | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 6.75 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 192 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 3-(4-chlorobenzyl)thio-5-chloro-1,2,4-thiadiazole | 5.38 g | ClC1=CC=C(CSC2=NSC(=N2)Cl)C=C1 | C9H6Cl2N2S2
